US09303040B2
60% NaH (2.31 g, 57.7 mmol) was added in 2 portions to a 0° C. solution of 2-(3-chlorophenyl)acetonitrile (3.50 g, 23.1 mmol) and 15-crown-5 (0.509 g, 2.31 mmol) in DMF (80 mL). The reaction mixture was warmed to room temperature while stirring for 35 minutes and then cooled back to 0° C. NaI (3.46 g, 23.1 mmol) was added, followed by the addition of a solution of freshly prepared tert-butyl bis(2-chloroethyl)carbamate (5.59 g, 23.1 mmol) in DMF (10 mL) by syringe. The reaction mixture warmed back to room temperature and stirred overnight (16 hours). The reaction mixture was poured into iced saturated NH4Cl and extracted with EtOAc. The extracts were dried (Na2SO4), filtered, and concentrated. The crude was flashed on silica (Biotage 40L, 9:1 hex:EA until prod, then gradient to 4:1 hexane:EtOAc) to give tert-butyl 4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate (5.91 g, 79.8% yield) as a yellow foam. LC/MS (APCI+) m/z 221 [M-Boc+H]+.

reactant | NaH | 57.7 mmol, 2.31 g | [H-].[Na+]
reactant | 2-(3-chlorophenyl)acetonitrile | 23.1 mmol, 3.50 g | ClC=1C=C(C=CC1)CC#N | C8H6ClN
reactant | 15-crown-5 | 2.31 mmol, 0.509 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | NaI | 23.1 mmol, 3.46 g | [Na+].[I-]
reactant | tert-butyl bis(2-chloroethyl)carbamate | 23.1 mmol, 5.59 g | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate | 5.91 g, 79.8% yield | ClC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H21ClN2O2
